US20010041707A1
b) (+)-5-Methoxycarbonyl-4-methoxymethyl-1,2,3,6-tetrahydro-2-oxo-6 (S)-(3,4-difluorophenyl)-1-[(2-carboxyethylamino)-carbonyl]pyrimidine
(+)-5-Methoxycarbonyl-4-methyoxymethyl-1, 2,3,6-tetrahydro-2-oxo-6(S)-(3,4-difluorophenyl)-1-[(2-ethoxycarbonylethylamino)carbonyl]pyrimidine (168 mg, 0.37 mmol) was dissolved in 5 mL of methanol. A 2.0M solution of aqueous sodium hydroxide (400 mL, 0.80 mmol) was added dropwise. The mixture was stirred at ambient temperature for 4.5 hours, then concentrated in vacuo. The resulting residue was partioned between ethyl acetate and 2.0M aqueous hydrochloric acid. The phases were separated and the aqueous phase was extracted twice with ethyl acetate. The combined organic phases were then washed with brine. The organic phase was then dried over sodium sulfate, filtered, and the filtrate was then evaporated to dryness. The residue was reconcentrated from diethyl ether. The resulting white foamy solid was purified by “flash” chromatography (5.02, 98:2:0.2 of dichloromethane:methanol:glacial acetic acid). The product fractions were evaporated to dryness and the residue was reconcentrated from diethyl ether to give the title compound as a white foamy solid.

reactant | (+)-5-Methoxycarbonyl-4-methyoxymethyl-1, 2,3,6-tetrahydro-2-oxo-6(S)-(3,4-difluorophenyl)-1-[(2-ethoxycarbonylethylamino)carbonyl]pyrimidine | 0.37 mmol, 168 mg | COC(=O)C1=C(NC(N([C@H]1C1=CC(=C(C=C1)F)F)C(=O)NCCC(=O)OCC)=O)COC | C20H23F2N3O7
reactant | sodium hydroxide | 0.80 mmol, 400 mL | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | (+)-5-Methoxycarbonyl-4-methoxymethyl-1,2,3,6-tetrahydro-2-oxo-6 (S)-(3,4-difluorophenyl)-1-[(2-carboxyethylamino)-carbonyl]pyrimidine | COC(=O)C1=C(NC(N([C@H]1C1=CC(=C(C=C1)F)F)C(=O)NCCC(=O)O)=O)COC | C18H19F2N3O7
